US09216173B2
To a solution of tert-butyl [1-hydroxy-3-(methylsulfanyl)propan-2-yl]carbamate (14.0 g, 63.3 mmol) in THF (200 mL) was added phthalimide (11.2 g, 76.0 mmol) and triphenylphosphine (25.3 g, 94.9 mmol) under a nitrogen atmosphere. Diethylazodicarboxylate was added dropwise and the reaction mixture was stirred at room temperature. After 2 hours, the reaction mixture was concentrated under reduced pressure. The residue was purified via chromatography on silica gel to afford tert-butyl [1-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-3-(methylsulfanyl)propan-2-yl]carbamate. MS ESI calc'd. for C17H22N2O4SNa [M+Na]+ 373. found 373. 1H NMR (400 MHz, CD3OD) δ 7.85-7.77 (m, 4H), 4.16-4.05 (m, 1H), 3.92-3.68 (m, 2H), 2.69-2.15 (m, 2H), 2.15 (s, 3H), 1.25 (s, 9H).

reactant | tert-butyl [1-hydroxy-3-(methylsulfanyl)propan-2-yl]carbamate | 63.3 mmol, 14.0 g | OCC(CSC)NC(OC(C)(C)C)=O | C9H19NO3S
reactant | phthalimide | 76.0 mmol, 11.2 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 94.9 mmol, 25.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diethylazodicarboxylate | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | tert-butyl [1-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-3-(methylsulfanyl)propan-2-yl]carbamate | O=C1N(C(C2=CC=CC=C12)=O)CC(CSC)NC(OC(C)(C)C)=O | C17H22N2O4S
